US06492394B1
To a suspension of D-threonine (7.87 g, 66.1 mmol) in acetonitrile (100 mL) was added trimethylsilyl cyanide (40 mL, 298 mmol) and the resulting solution was heated to 80° C. After 1 h, 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride (17.3 g, 69.4 mmol) was added and the heating was continued. After 12 h, the reaction mixture was cooled to room temperature. Methanol (15 mL) was added, and the organics were removed in vacuo. The residue was diluted with diethyl ether (300 mL) and after cooling the reaction mixture to 0° C., the pH was adjusted to 8 with 6 N aqueous sodium hydroxide solution. The organic layer was collected and the aqueous layer was extracted with diethyl ether. The aqueous layer was adjusted to pH 4 and again extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate and concentrated to afford 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3(S)-hydroxybutyric acid (22 g) as a brown foam which was used without further purification.

reactant | D-threonine | 66.1 mmol, 7.87 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | trimethylsilyl cyanide | 298 mmol, 40 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride | 69.4 mmol, 17.3 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | Methanol | 15 mL | CO | CH4O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3(S)-hydroxybutyric acid | 22 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)N[C@@H](C(=O)O)[C@H](C)O)C)C | C14H21NO6S
